US04966988
Preparation of α,α,α-Trifluoro-α'-chloro-m-xylene
Liquid hydrogen fluoride (200 grams, 10 moles) is charged into a one-liter Hastelloy B autoclave. α,α,α,α'-Tetrachloroxylene (84%, 290 grams, 1 mole) was slowly added while the mixture was stirred vigorously and maintained (cooling) at 0°-10° C. Hydrogen chloride gas was allowed to vent through a reflux condenser and the condensed hydrogen fluoride was returned to the autoclave. After the addition was complete (2 hours) the mixture was stirred an additional 1 hour until hydrogen chloride evolution ceased. The mixture was allowed to warm to room temperature and the excess hydrogen fluoride evaporated. The remaining organic phase was washed with water (500 mls) and 10% sodium hydroxide (500 mls). The product was distilled under reduced pressure to give the product (165 grams, 85% yield, assay 93%). Lighter fractions contained primarily hexafluoro-m-xylene and the pot residue contained some partially fluorinated materials.

reactant | hydrogen fluoride | 10 moles, 200 grams | F | FH
reactant | α,α,α,α'-Tetrachloroxylene | 1 mole, 290 grams | ClC(C=1C(=CC=CC1)CCl)(Cl)Cl | C8H6Cl4
reactant | Hydrogen chloride | Cl | ClH
reactant | hexafluoro-m-xylene | FC(C=1C=C(C=CC1)C(F)(F)F)(F)F | C8H4F6
product | α,α,α-Trifluoro-α'-chloro-m-xylene | 85% yield | FC(C1=CC(=CC=C1)CCl)(F)F | C8H6ClF3
